US06211234B1
A solution of ethyl 3-(2,4-dibenzyloxyphenyl)-pyrazole-5-carboxylate (1.5 g) in methanol (20 mL) and THF(10 mL) is treated with aqueous 10% KOH (7.5 mL) and refluxed for 2 hours. The solution is evaporated, brought to pH 1 with 1 M HCl, and the precipitate filtered. The solid is purified by flash chromatography on silica, eluting with dichloromethane/methanol (98:2). Fractions homogeneous in the required product are combined and evaporated. The residue is recrystallized from ethyl acetate to give 3-(2,4-dibenzyloxyphenyl)-pyrazole-5-carboxylic acid as colourless crystals (0.13 g), m.p. 218-219° C. 1H NMR (CDCl3) 5.1 (2H,s), 5.2(2H,s), 6.68(1H,d), 6.72(1H,s), 7.3-7.5(11H,m), 7.7(1H,d).

reactant | ethyl 3-(2,4-dibenzyloxyphenyl)-pyrazole-5-carboxylate | 1.5 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NNC(=C1)C(=O)OCC | C26H24N2O4
reactant | KOH | 7.5 mL | [OH-].[K+]
solvent | methanol | 20 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(2,4-dibenzyloxyphenyl)-pyrazole-5-carboxylic acid | 0.13 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NNC(=C1)C(=O)O | C24H20N2O4
